US07713994B2
(4Z)-4-[({4-[2-(Benzyloxy)ethoxy]-4-hydroxybenzyl}amino)methylene]-6-bromoisoquinoline-1,3(2H,4H)-dione
A mixture of (4Z)-6-bromo-4-{[(3,4-dihydroxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (150.0 mg, 0.385 mmol), benzyl-2-bromoethylether (82.89 mg, 0.385 mmol), tetrabutyl ammonium iodide (142.2 mg, 0.385 mmol) and K2CO3 (106.42 mg, 0.77 mmol) in 2.5 mL N,N-dimethylformamide (DMF) is reacted in microwave at 100° C. for 10 minutes. The reaction mixture is filtered through celite. The residues is concentrated in vacuo. Water is added and the solution is stirred at room temperature for 1 hour. The brown solid is filtered and dried in vacuo. The solid is dissolved in DMSO and purified in Gilson reverse phase HPLC Elution system: 50% (0.1% TFA in 5% acetonitrile/water/50% acetonenitrile to 70% acetonenitrile) over 60 minutes. Peak II is collected, concentrated to give 10 mg (5%) product as a yellow solid: MS (EI) m/z 522 (M−H)−1; MS (EI) m/z 431; HRMS: calcd for C26H23BrN2O5+H+, 523.08631. found (ESI+, [M+H]1+), 523.08586; 1H NMR (400 MHz, DMSO-D6) □ ppm 2.46 (bs, 1H) 3.72-3.79 (m, 2H) 4.05-4.14 (m, 2H) 4.49-4.59 (m, 4H) 6.74 (dd, J=8.31, 2.01 Hz, 1H) 6.83 (d, J=2.27 Hz, 1H) 6.93 (d, J=8.31 Hz, 1H) 7.22-7.39 (m, 5H) 7.87 (d, J=8.56 Hz, 1H) 8.11 (d, J=1.76 Hz, 1H) 8.72 (d, J=13.35 Hz, 1H) 9.08 (s, 1H) 10.54-10.72 (m, 1H) 11.09 (s, 1H).

reactant | (4Z)-6-bromo-4-{[(3,4-dihydroxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.385 mmol, 150.0 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)O)O | C17H13BrN2O4
reactant | benzyl-2-bromoethylether | 0.385 mmol, 82.89 mg | C(C1=CC=CC=C1)C(COCC(CC1=CC=CC=C1)Br)Br | C18H20Br2O
reactant | K2CO3 | 0.77 mmol, 106.42 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutyl ammonium iodide | 0.385 mmol, 142.2 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (4Z)-4-[({4-[2-(Benzyloxy)ethoxy]-4-hydroxybenzyl}amino)methylene]-6-bromoisoquinoline-1,3(2H,4H)-dione | 10 mg, 5% | C(C1=CC=CC=C1)OCCOC1(CC=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)Br)=O)=O)C=C1)O | C26H25BrN2O5
